* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 21.8
R1 n1 a 4
R2 a nc 3
V2 nc nd DC 31.8
R3 nd ne 5
V3 b ne DC 15.2
V4 nf b DC 11.6
R4 nf 0 3
.op
.print dc V(a) V(b)
.end